US05128356
Methyl 5-chloro-3-nitro-2-valerylaminobenzoate
To a solution of methyl 5-chloro-2valerylaminobenzoate (13.4 g) in acetic anhydride (10 ml) was added dropwise, while stirring under ice-cooling, fuming nitric acid. The mixture was stirred for one hour at room temperature, then there was added ice water. The mixture was allowed to stand to give crystals Recrystallization from isopropyl ether afforded pale yellow crystals (9.5 g, 61%), m.p. 84°-85° C.

reactant | methyl 5-chloro-2valerylaminobenzoate | 13.4 g | ClC=1C=CC(=C(C(=O)OC)C1)NC(CCCC)=O | C13H16ClNO3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Methyl 5-chloro-3-nitro-2-valerylaminobenzoate | ClC=1C=C(C(=C(C(=O)OC)C1)NC(CCCC)=O)[N+](=O)[O-] | C13H15ClN2O5
